US09061998B2
Intermediate 31: N-{4-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-thiazol-2-yl}acetamide
A suspension of N-[4-(4-bromophenyl)-1,3-thiazol-2-yl]acetamide, (preparation described in J. Am. Chem. Soc. 1950, 72, 3722) (3.91 g, 13.16 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (4.01 g, 15.79 mmol), potassium acetate (3.87 g, 39.5 mmol) and [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (PdCl2dppf.DCM) (0.537 g, 0.658 mmol) in 1,4-dioxane (30 mL) was stirred overnight at 100° C. After cooling, the reaction mixture was filtered and the filtrate was evaporated. The residue was then dissolved in dichloromethane and then washed with water and brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The solid was then dissolved in a few drops of dichloromethane, precipitated with cyclohexane, filtered and dried to give the title compound N-{4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-thiazol-2-yl}acetamide (2.37 g, 6.88 mmol, 52.3% yield) as a light brown solid. LCMS: (M+H)+=345; Rt=3.50 min.

reactant | N-[4-(4-bromophenyl)-1,3-thiazol-2-yl]acetamide | BrC1=CC=C(C=C1)C=1N=C(SC1)NC(C)=O | C11H9BrN2OS
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 15.79 mmol, 4.01 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 39.5 mmol, 3.87 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.658 mmol, 0.537 g | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-{4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-thiazol-2-yl}acetamide | 6.88 mmol, 2.37 g, 52.3% yield | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C=1N=C(SC1)NC(C)=O)C | C17H21BN2O3S
